US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide
As described for example 78, 3-hydroxycycloheptyl-amine, p-nitrophenyl chloroformate, diisopropylethyl amine and 7-chloro-4-piperazinylquinoline are reacted to afford the product. LC-MS: 403 (M++1). 1H NMR (CDCl3) δ 8.75 (d, 1H), 8.05 (s, 1H), 7.96 (d, 1H), 7.45 (d, 1H), 6.84 (d, 1H), 4.50 (d, 1H), 4.10 (m, 2H), 3.65 (m, 4H), 3.20 (m, 4H), 2.38 (m, 1H), 2.0 (m, 3H), 1.80 (m, 4H), 1.40 (m, 2H).

reactant | 3-hydroxycycloheptyl-amine | OC1CC(CCCC1)N | C7H15NO
reactant | p-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-piperazinylquinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
product | 4-(7-Chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)O | C21H27ClN4O2
